US06863647B2
Preparation of imidazo[1,2-a]pyridin-2-ylmethanamine
A solution of 1.37 g (4.94 mmol) of 2-(imidazo[1,2-a]pyridin-2-ylmethyl)-1H-isoindole-1,3(2H)-dione in 14 ml of hydrazine hydrate 98% and 1 ml of ethanol. Was stirred at room temperature for an hour. The mixture was then poured into 25 ml of sodium hydroxide 35% and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and evaporated to give 0.426 g of the title compound crystallized from diethylether.

reactant | 2-(imidazo[1,2-a]pyridin-2-ylmethyl)-1H-isoindole-1,3(2H)-dione | 4.94 mmol, 1.37 g | N=1C(=CN2C1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C16H11N3O2
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | hydrazine hydrate | 14 ml | O.NN
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | imidazo[1,2-a]pyridin-2-ylmethanamine | 0.426 g | N=1C(=CN2C1C=CC=C2)CN | C8H9N3
